US06979692B2
(d) 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid
1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid ethyl ester (4.5 g, 9.37 mmol) was added to MeOH/H2O (110 mL, 10/1). Lithium hydroxide monohydrate (1.5 g, 35.7 mmol) was added to the above mixture. The mixture which resulted was heated to reflux overnight. The solvent was removed under reduced pressure and the residue was dissolved in H2O (500 mL). The solution was acidified with 6N HCl to pH 2. The solid was collected by filtration and dried under vacuum (4.0 g, 94.5%).

reactant | 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid ethyl ester | 9.37 mmol, 4.5 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)CC | C27H23F3N2O3
reactant | Lithium hydroxide monohydrate | 35.7 mmol, 1.5 g | O.[OH-].[Li+]
solvent | MeOH H2O | 110 mL | CO.O
product | 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid | C(C)N1C(=CC2=CC(=CC=C12)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C25H19F3N2O3
